US08703978B2
1-(4-Pentylphenyl)ethynyl-3-triisopropylsiloxynaphthalene
A solution of 3-triisopropylsilyoxy-1-bromonaphthalene (2.32 g, 6.1 mmol), (4-pentylphenyl)acetylene (1.58 g, 9.2 mmol), Pd(PPh3)2Cl2 (129 mg, 3 mol %), PPh3 (240 mg, 15 mol %) and CuI (88 mg, 7.5 mol %) in Et3N (20 mL) under N2 was heated at reflux for 4 h. The resulting mixture was cooled, diluted with Et2O, filtered and the solvent removed under reduced pressure. The residue was chromatographed on silica using hexanes as eluent. The solvent was removed under reduced pressure to give the title compound (0.95 g, 33%) as a pale yellow oil.

reactant | 3-triisopropylsilyoxy-1-bromonaphthalene | 6.1 mmol, 2.32 g | C(C)(C)[Si](OC=1C=C(C2=CC=CC=C2C1)Br)(C(C)C)C(C)C | C19H27BrOSi
reactant | (4-pentylphenyl)acetylene | 9.2 mmol, 1.58 g | C(CCCC)C1=CC=C(C=C1)C#C | C13H16
reactant | PPh3 | 240 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | Et3N | 20 mL | CCN(CC)CC | C6H15N
solvent | Et2O | CCOCC | C4H10O
catalyst | Pd(PPh3)2Cl2 | 129 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 88 mg | [Cu]I
product | 1-(4-Pentylphenyl)ethynyl-3-triisopropylsiloxynaphthalene | 0.95 g, 33% | C(CCCC)C1=CC=C(C=C1)C#CC1=CC(=CC2=CC=CC=C12)O[Si](C(C)C)(C(C)C)C(C)C | C32H42OSi
